US07390830B1
Acetic acid (10 mL) was added to a mixture of 4-[[N-(2-(tert-butoxycarbonylamino)-5-(trifluoromethoxy)benzoyl)glycyl]aminomethyl]piperidine (0.050 mmol) with 4-isopropylbenzaldehyde (0.060 mmol), NaH3CN (0.15 mmol) and methanol (1.3 mL), and the resulting mixture was stirred at 60° C. for 8 hours, cooled to room temperature, then loaded onto a Varian™ SCX column and washed with methanol (10 mL). The obtained crude product was eluted with a 2 M methanol solution of NH3 (5 mL) and concentrated. A 4 M dioxane solution of HCl (2 mL) was then added to the resulting residue, and the obtained solution was stirred at room temperature overnight, concentrated and then purified by preparative TLC to provide 4-[[N-(2-amino-5-trifluoromethoxybenzoyl)glycyl]aminomethyl]-1-(4-isopropylbenzyl)piperidine (Compd. No. 1903) (6.6 mg, 26%). The purity was determined by RPLC/MS (93%). ESI/MS m/e 507 (M++H, C26H33F3N4O3).

reactant | Acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | 4-[[N-(2-(tert-butoxycarbonylamino)-5-(trifluoromethoxy)benzoyl)glycyl]aminomethyl]piperidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C=C1)OC(F)(F)F | C21H29F3N4O5
reactant | 4-isopropylbenzaldehyde | 0.060 mmol | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
solvent | methanol | 1.3 mL | CO | CH4O
product | 4-[[N-(2-amino-5-trifluoromethoxybenzoyl)glycyl]aminomethyl]-1-(4-isopropylbenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)C(C)C)C=C(C=C1)OC(F)(F)F | C26H33F3N4O3
